US04654363
Step G: Preparation of Ethyl 3-(8-hydroxy2-methyl-5,6,7,8-tetrahydro-4,7,7-trichloronaphthalen-1-yl)propanoate
Sodium borohydride (0.19 g, 5.02 mmoles) was added to a solution of 3-(2-methyl-8-oxo-5,6,7,8-tetrahydro-4,7,7-trichloronaphthalen-1-yl)propanoate (7.38 g, 20.3 mmoles) in ethanol (60 ml) which had been cooled in an ice-water bath. The reaction was allowed to stir for 15 minutes. Tlc (silica-CH2Cl2) showed reaction not complete. Add 20 mg of sodium borohydride first stirred in the cold for 15 minutes. Repeat addition of 20 mg of sodium borohydride with 15 minutes stirring in the cold twice more at which time tlc showed reaction complete. The reaction was then partitioned between ether (150 ml) and water (300 ml). The water was extracted with ether two times. The combined ether extracts were washed with water two times, dried (MgSO4), filtered, and the solvent evaporated in vacuo to leave 7.25 g of title compound as a gum.

reactant | Sodium borohydride | 5.02 mmoles, 0.19 g | [BH4-].[Na+]
reactant | 3-(2-methyl-8-oxo-5,6,7,8-tetrahydro-4,7,7-trichloronaphthalen-1-yl)propanoate | 20.3 mmoles, 7.38 g | CC1=C(C=2C(C(CCC2C(=C1)Cl)(Cl)Cl)=O)CCC(=O)[O-]
reactant | ethanol | 60 ml | C(C)O | C2H6O
catalyst | sodium borohydride | 20 mg | [BH4-].[Na+]
catalyst | sodium borohydride | 20 mg | [BH4-].[Na+]
product | Ethyl 3-(8-hydroxy2-methyl-5,6,7,8-tetrahydro-4,7,7-trichloronaphthalen-1-yl)propanoate | 7.25 g | OC1C(CCC=2C(=CC(=C(C12)CCC(=O)OCC)C)Cl)(Cl)Cl | C16H19Cl3O3
